US06620961B1
1.20 g of isopropyl N-(3-bromobenzyl)carbamate, 0.47 g of sodium carbonate in aqueous solution (20 ml) and 0.10 g of tetrakis(triphenylphosphine)palladium (0) were added to toluene (40 ml) under a nitrogen atmosphere. The resulting solution was mixed with 0.54 g of phenylboric acid in ethanol (20 ml) at room temperature with stirring and refluxed under heating for 2 hours. After the reaction, the reaction solution was cooled to room temperature, poured into saturated aqueous sodium chloride and extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate and evaporated under reduced pressure for removal of the solvent. The residue was purified by silica gel column chromatography to give 0.85 g of isopropyl N-(3-phenylbenzyl)carbamate as white crystals. m.p. 61-64° C.

reactant | isopropyl N-(3-bromobenzyl)carbamate | 1.20 g | BrC=1C=C(CNC(OC(C)C)=O)C=CC1 | C11H14BrNO2
reactant | sodium carbonate | 0.47 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenylboric acid | 0.54 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | isopropyl N-(3-phenylbenzyl)carbamate | 0.85 g | C1(=CC=CC=C1)C=1C=C(CNC(OC(C)C)=O)C=CC1 | C17H19NO2
